US05530119
Following the procedure of Example 6, but replacing 1-benzylpiperazine with 1-β-naphthylmethylpiperazine, provided the desired compound. To a solution of piperazine (2.0 g, 0.023 mol) in 15 mL of ethanol added a solution of (2-bromomethyl)naphthalene (5 g, 0.023 mol) in 15 mL of warm ethanol. It was stirred at 55° C. for 1 hour and stirred at room temperature for one over night. The resulting precipitate was filtered, washed with ethyl acetate (20 mL×2), and dried to yield 1-naphthylmethylpiperazine hydrobromide (2.3 g). MS m/z M+H=227, H1 -NMR (in MeOH-d4) δ=2.85 (t, 4H, piperazine), 3.20 (t, 4H, piperazine), 3.72 (s, 2H, benzyl), 7.45 (m, 3H, aromatic), 7.70 (s, 2H, aromatic), 7.80 (3, 3H, aromatic). The obtained 1-naphthylmethylpiperazine hydrobromide (2.2 g, 7.16 mmol) was dissolved in 50 mL of 3N sodium hydroxide aqueous solution and stirred at room temperature for 30 minutes. The product was extracted with ethyl acetate (50 mL×3), and the combined ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate. Solvent was removed to obtain 1.2 g of 1-[naphthylmethyl]piperazine in 75% yield. MS m/z M+H=227, H1 -NMR (in MeOH-d4) δ=2.5 (m, 4H, piperazine), 2.95 (t, 4H, piperazine 3.55 (s, 2H, benzyl), 7.74 (m, 3H, aromatic), 7.72 (s, 2H, aromatic), 7.79 (m, 3H, aromatic). The product of Example 3 (2.1 g, 2.03 mmol), 1-naphthylmethylpiperazine (1.84 g, 8.1 mmol), and triethylamine (0.85 mL, 6.09 mmol) in 10 mL of methylene chloride were used. 860 mg of pure compound was isolated in 38% yield. MS (FAB) m/z: M+H=1114 . The obtained product (850 mg, 0.76 mmol) was treated with 48%-HF (4 mL) in 30 mL of acetonitrile in the procedure described in Example 5. 413 mg of the pure title compound was isolated after purified by RP-HPLC in 41% yield. MS (FAB) m/z: M+K=1038. M+H=1000. mp=125°-126° C.

reactant | 1-naphthylmethylpiperazine hydrobromide | 7.16 mmol, 2.2 g | Br.C1(=CC=CC2=CC=CC=C12)CN1CCNCC1
solvent | sodium hydroxide | 3N, 50 mL | [OH-].[Na+]
product | 1-[naphthylmethyl]piperazine | 1.2 g, 75% yield | C1(=CC=CC2=CC=CC=C12)CN1CCNCC1 | C15H18N2
